US07026478B2
A solution of phenylmagnesium bromide (1M in THF, 4.2 mL, 4.2 mmol) is added to a solution of 4-chloro-2-methylthio-pyrimidine (296 mg, 1.84 mmol) and Fe(acac)3 (32 mg, 0.09 mmol) in THF (10 mL) at −30° C. After stirring for 50 min at that temperature, the reaction is quenched with brine, the aqueous layer is extracted with Et2O, the combined organic phases are dried over Na2SO4 and evaporated, and the residue is purified by flash chromatography (hexane/ethyl acetate, 10:1). After eluting a first fraction containing biphenyl (90 mg), one obtains 2-methylthio-4-phenyl-pyrimidine as a pale yellow solid (197 mg, 53%). 1H NMR (300 MHz, CD2Cl2) δ 8.53 (d, 1H), 8.09–8.13 (m, 2H), 7.53–7.48 (m, 3H), 7.39 (d, 2H), 2.63 (s, 3H); 13C NMR (75 MHz, CD2Cl2) δ 173.0, 164.0, 158.0, 136.7, 131.1, 131.0, 129.2, 127.5, 127.4, 112.2, 14.3.

reactant | phenylmagnesium bromide | 4.2 mmol, 1M, 4.2 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 4-chloro-2-methylthio-pyrimidine | 1.84 mmol, 296 mg | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-methylthio-4-phenyl-pyrimidine | 197 mg, 53% | CSC1=NC=CC(=N1)C1=CC=CC=C1 | C11H10N2S
